US05891889
Step C: N-{1-(4 Cyanobenzyl)-1H-imidazol-5-yl-aminocarbonyl}-4-(2-methylbenzyl) isonipecotic acid methyl ester.
To a suspension of 4-(2-methylbenzyl)-isonipecotic acid methyl ester hydrochloride (50 mg, 0.176 mmol) in toluene (2 ml) was added phosgene (0.912 ml of a 1.93M solution in toluene, 1.76 mmol) and triethylamine (0.074 ml, 0.528 mmol) and the mixture stirred for 48 hrs at room temperature. The excess phosgene was removed by purging the solution with argon gas for 10 min. The suspension was added to 1-(4-cyanobenzyl)-5-amino-1H-imidazole hydrochloride (100 mg, 0.528 mmol) in CH2Cl2 (10 ml) and the mixture stirrred at 50° C. for 72 hrs. The solvent was evaporated in vacuo and the residue purified by preparative HPLC (C18, 95:5 to 5:95 water: acetonitrile containing 0.1% TFA). The residue after lyophilisation was partitioned between CH2Cl2 and saturated NaHCO3 solution. The organic extract was dried (MgSO4), and evaporated to dryness

reactant | 4-(2-methylbenzyl)-isonipecotic acid methyl ester hydrochloride | 0.176 mmol, 50 mg | Cl.COC(C1(CCNCC1)CC1=C(C=CC=C1)C)=O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 0.528 mmol, 0.074 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(4-cyanobenzyl)-5-amino-1H-imidazole hydrochloride | 0.528 mmol, 100 mg | Cl.C(#N)C1=CC=C(CN2C=NC=C2N)C=C1
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | N-{1-(4 Cyanobenzyl)-1H-imidazol-5-yl-aminocarbonyl}-4-(2-methylbenzyl) isonipecotic acid methyl ester | COC(C1(CCN(CC1)C(=O)NC1=CN=CN1CC1=CC=C(C=C1)C#N)CC1=C(C=CC=C1)C)=O | C27H29N5O3
